** sch_path: /home/eamtastudent/EAMTA2026-VLSI/examples/blocks/IHP__QDLL6501-main/QDLL6501-main/schematic/xschem/CP.sch
.subckt CP CPIN CPOUT VSS
*.PININFO VSS:B CPIN:I CPOUT:O
CC1 CPOUT VSS cap_cmim w=60e-6 l=20e-6
x1 CPOUT CPIN VSS RES
.ends

* expanding   symbol:  RES.sym # of pins=3
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/examples/blocks/IHP__QDLL6501-main/QDLL6501-main/schematic/xschem/RES.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/examples/blocks/IHP__QDLL6501-main/QDLL6501-main/schematic/xschem/RES.sch
.subckt RES ROUT RIN VSS
*.PININFO RIN:I ROUT:O VSS:B
RR13 net1 RIN 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR1 net2 net1 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR2 net3 net2 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR3 net4 net3 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR4 net5 net4 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR5 net6 net5 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR6 net7 net6 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR7 net8 net7 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR8 net9 net8 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR9 net10 net9 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR10 net11 net10 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR11 ROUT net11 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
.ends

